US07943654B2
3-(2-Nitro-benzoylamino)-thieno[2,3-c]pyrazole-1,5-dicarboxylic Acid 5-tert-butyl Ester 1-ethyl Ester
To a solution of 5-tert-butyl 1-ethyl 3-amino-1H-thieno[2,3-c]pyrazole-1,5-dicarboxylate (500 mg, 1.606 mmol) and diisopropylethylamine (DIEA, 0.824 mL, 4.818 mmol) in tetrahydrofuran (THF, 20 mL) at 0° C., 2-nitro-benzoyl chloride (0.318 mL, 2.409 mmol) was added. The reaction mixture was kept at the same temperature for 10 minutes then allowed to reach room temperature and let react overnight. The solvent was removed under vacuum, the residue was dissolved in dichloromethane (DCM) and washed with a 10% solution of acetic acid (AcOH), water, saturated NaHCO3 and brine. The crude was purified on silica gel (eluant dichloromethane/methanol 96/4) yielding 512 mg (69%) of the title compound.

reactant | 5-tert-butyl 1-ethyl 3-amino-1H-thieno[2,3-c]pyrazole-1,5-dicarboxylate | 1.606 mmol, 500 mg | NC=1C2=C(N(N1)C(=O)OCC)SC(=C2)C(=O)OC(C)(C)C | C13H17N3O4S
reactant | diisopropylethylamine | 4.818 mmol, 0.824 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-nitro-benzoyl chloride | 2.409 mmol, 0.318 mL | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-(2-Nitro-benzoylamino)-thieno[2,3-c]pyrazole-1,5-dicarboxylic Acid 5-tert-butyl Ester 1-ethyl Ester | 512 mg, 69% | C(C)OC(=O)N1N=C(C2=C1SC(=C2)C(=O)OC(C)(C)C)NC(C2=C(C=CC=C2)[N+](=O)[O-])=O | C20H20N4O7S
